US08304419B2
Step D: 4-chloro-N-{[3-[(3-chloro-5-cyanophenyl)oxy]-4-(difluoromethyl)-2-fluorophenyl]methyl}-imidazole-5-carboxamide
A solution of 3-{[3-(aminomethyl)-6-(difluoromethyl)-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.08 g, 0.245 mmol), 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (0.068 g, 0.245 mmol), EDC (0.047 g, 0.245 mmol) and HOBT (0.037 g, 0.245 mmol) in DMF (4 ml) was stirred at RT under an atmosphere of nitrogen for 16 h then ethyl acetate (30 mL) and saturated aqueous NaHCO3 solution (30 mL) were added. The organic layer was separated, washed with saturated aqueous NaHCO3 solution (30 mL), water (30 mL), brine (30 mL), dried over MgSO4, filtered and concentrated. A solution of this residue and TFA (0.019 ml, 0.246 mmol) in dichloromethane (10 ml) was stirred at RT under an atmosphere of nitrogen for 16 h. The solvent was removed under vacuum and the resulting oil was purified by Reverse Phase HPLC (MeCN/water+0.1% TFA). The desired compound was washed with saturated aqueous NaHCO3 solution (25 mL) and extracted with ethyl acetate (25 mL). The organic layer was separated, washed with water (25 mL), brine (25 mL), dried over MgSO4, filtered and concentrated to give the title compound (0.034 g, 30%) as a white powder. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.73 (s, 1H), 7.44-7.63 (m, 3H), 7.27 (d, 2H), 6.92 (t, 1H), 4.70 (s, 2H). LC/MS m/z 453.2 (M−H).

reactant | 3-{[3-(aminomethyl)-6-(difluoromethyl)-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.245 mmol, 0.08 g | NCC=1C(=C(C(=CC1)C(F)F)OC=1C=C(C#N)C=C(C1)Cl)F | C15H10ClF3N2O
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.245 mmol, 0.068 g | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
reactant | EDC | 0.245 mmol, 0.047 g
reactant | HOBT | 0.245 mmol, 0.037 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
reactant | TFA | 0.246 mmol, 0.019 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-chloro-N-{[3-[(3-chloro-5-cyanophenyl)oxy]-4-(difluoromethyl)-2-fluorophenyl]methyl}-imidazole-5-carboxamide | 0.034 g, 30% | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)C(F)F)OC1=CC(=CC(=C1)C#N)Cl)F | C19H11Cl2F3N4O2
